US06759429B2
To a solution of 3-nitro-1,2-phenylenediamine (5.02 g) in ethanol (500 mL) was added at 60° C. a 40% aqueous solution of pyruvic aldehyde (17.72 g). The reaction solution was refluxed for 10 minutes, and thereto was added water (300 mL). The mixture was cooled to room temperature, and concentrated under reduced pressure. The precipitated crystals were collected by filtration, washed with cold water, and dried under reduced pressure to give 2-methyl-8-nitroquinoxaline (4.17 g, 67%) as orange crystals.

reactant | 3-nitro-1,2-phenylenediamine | 5.02 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | pyruvic aldehyde | 17.72 g | CC(=O)C=O | C3H4O2
reactant | water | 300 mL | O | H2O
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 2-methyl-8-nitroquinoxaline | 4.17 g, 67% | CC1=NC2=C(C=CC=C2N=C1)[N+](=O)[O-] | C9H7N3O2
